US07709500B2
N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-4-(methylsulfonyl)benzamide
Prepared as described in Example 1 from (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.1 g) and 4-(methylsulphonyl)benzoic acid (0.063 g). Title compound obtained as white solid (0.038 g).

reactant | (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.1 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | 4-(methylsulphonyl)benzoic acid | 0.063 g | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
product | N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-4-(methylsulfonyl)benzamide | ClC=1C=C(OC2CCN(CC2)C[C@@H](CNC(C2=CC=C(C=C2)S(=O)(=O)C)=O)O)C=CC1Cl | C22H26Cl2N2O5S
